US06740662B1
A mixture of 1.00 g of 3-[4-(3-chlorophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]propanoic acid, 20 ml of methanol and 0.5 ml of concentrated sulfuric acid was heated under reflux for a whole day and night. After cooling to room temperature, saturated sodium bicarbonate aqueous solution was added thereto and the whole was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and then the solvent was evaporated. The residue was purified by a silica gel column chromatography (hexane-ethyl acetate). The resulting compound was dissolved in 20 ml of THF and 500 mg of sodium borohydride was added thereto. While heating under reflux, 3 ml of methanol was added dropwise thereto, and the mixture was further heated under reflux for 3 hours. After cooling to room temperature, 1M hydrochloric acid was added and the whole was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and then the solvent was evaporated. The resulting residue was purified by a silica gel column chromatography (hexane-ethyl acetate) and then recrystallized from diisopropyl ether to obtain 497 mg of 4-(3-chlorophenyl)-1-ethyl-3-(3-hydroxypropyl)-7-methyl-1,8-naphthyridin-2(1H)-one as colorless crystals.

reactant | 3-[4-(3-chlorophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]propanoic acid | 1.00 g | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)CCC(=O)O | C20H19ClN2O3
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 4-(3-chlorophenyl)-1-ethyl-3-(3-hydroxypropyl)-7-methyl-1,8-naphthyridin-2(1H)-one | 497 mg | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)CCCO | C20H21ClN2O2
